US07053212B2
To a solution of crude 2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-{1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-ethyl}-benzenesulfonamide (0.071 g, 0.12 mmol) in 4 mL absolute ethanol was added 0.8 mL of 1.2N HCl. The reaction mixture was stirred at room temperature overnight, was diluted with 10 mL saturated aqueous sodium bicarbonate, and the aqueous solution was washed with methylene chloride (3×10 mL). The combined organic layers were dried (sodium sulfate), filtered, and concentrated. The residue was purified by preparative TLC (1.0 mm silica gel layer, elution with 15% methanol/methylene chloride) to afford 0.010 g of N-[1-(4-hydroxy-phenyl)-ethyl]-2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide. MS 509.0 (M+1)+

reactant | 2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-{1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-ethyl}-benzenesulfonamide | 0.12 mmol, 0.071 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N(C(C)C1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C34H44N2O5S
reactant | HCl | 1.2N, 0.8 mL | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
product | N-[1-(4-hydroxy-phenyl)-ethyl]-2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide | 0.010 g | OC1=CC=C(C=C1)C(C)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)C1=CC=C(C=C1)OCCN1CCCC1 | C29H36N2O4S
